US07491724B2
Methyl(2S,3S,5S)-3-[(hydroxyamino)carbonyl]-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(phenylthio)piperidine-1-carboxylate
Part 3. methyl(2S, 3S, 5S)-3-[(hydroxyamino)carbonyl]-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-[(phenylthio)piperidine-1-carboxylate: To the reaction mixture of dimethyl (2S,3S,5S)-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(phenylthio)piperidine-1,3-dicarboxylate (51 mg, 0.00010 mol) in tetrahydrofuran (0.50 mL, 0.0062 mol) was added 1.640 M of N-hydroxyamine in methanol (1.25 mL) made from the corresponding salt and sodium methoxide. After stirred at rt for 1 h, the mixture was acidified with 1N HCl. The resultant mixture was applied directly on RP-HPLC to afford the product as a TFA salt (39 mg, 63%). MS (ESI): (M+H)+=499.1.

reactant | dimethyl (2S,3S,5S)-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(phenylthio)piperidine-1,3-dicarboxylate | 0.00010 mol, 51 mg | C1(=CC=CC=C1)N1CCN(CC1)C(=O)[C@H]1N(C[C@H](C[C@@H]1C(=O)OC)SC1=CC=CC=C1)C(=O)OC | C26H31N3O5S
reactant | tetrahydrofuran | 0.0062 mol, 0.50 mL | O1CCCC1 | C4H8O
reactant | N-hydroxyamine | 1.640 M | ON | H3NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 1.25 mL | CO | CH4O
product | Methyl(2S,3S,5S)-3-[(hydroxyamino)carbonyl]-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(phenylthio)piperidine-1-carboxylate | 39 mg, 63% | ONC(=O)[C@@H]1[C@H](N(C[C@H](C1)SC1=CC=CC=C1)C(=O)OC)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C25H30N4O5S
